US09162992B2
An ACE® pressure tube was charged with benzyl isopropoxycarbamate (4.98 g, 23.80 mmol), anhydrous K2CO3 (4.94 g, 35.70 mmol), methyl iodide (6.7 mL, 107.10), and anhydrous acetone (30 mL). The reaction mixture was heated at 70° C. for 24 h. The reaction mixture was filtered, and the acetone was evaporated. The resulting slurry was dissolved in EtOAc, washed with water (3×50 mL), dried (Na2SO4), and filtered. The solvent was removed to yield benzyl isopropoxy(methyl)carbamate (4.96 g, 93%). 400 MHz 1H-NMR (DMSO-d6, ppm) 7.41-7.30 (5H, m), 5.12 (2H, s), 4.08 (1H, septet, J=6.2 Hz), 3.08 (3H, s), 1.12 (6H, d, J=6.2 Hz).

reactant | benzyl isopropoxycarbamate | 23.80 mmol, 4.98 g | C(C)(C)ONC(OCC1=CC=CC=C1)=O | C11H15NO3
reactant | K2CO3 | 35.70 mmol, 4.94 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl iodide | 6.7 mL | CI | CH3I
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | benzyl isopropoxy(methyl)carbamate | 4.96 g, 93% | C(C)(C)ON(C(OCC1=CC=CC=C1)=O)C | C12H17NO3
